US07718693B2
1-(1,1-Dimethylethyl) 5-ethyl 3-methylglutamate (1.1 g, 4.5 mmol) was left to stand, attached to a high vacuum line, overnight and then over a weekend. Starting material was still evident at this stage so toluene (30 ml) was added and the resulting mixture was heated at 110° C. overnight. Evaporation gave 1,1-dimethylethyl 3-methyl-5-oxoprolinate (0.79 g) which was used in the next step without further purification.

reactant | 1-(1,1-Dimethylethyl) 5-ethyl 3-methylglutamate | 4.5 mmol | CC([C@H](N)C(=O)OC(C)(C)C)CC(=O)OCC | C12H23NO4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethylethyl 3-methyl-5-oxoprolinate | 0.79 g | CC1[C@H](NC(C1)=O)C(=O)OC(C)(C)C | C10H17NO3
